US06458780B1
b) 7-Acetyl-3-methyl-2-(tri-n-butylstannyl)imidazo-[5,1-b]thiazole
A 1.0 N lithiumbis(trimethylsilyl)amide/n-hexane solution (2.2 ml) was added dropwise to a solution of 0.360 g of 7-acetyl-3-methylimidazo[5,1-b]thiazole in THF (20 ml) at −70° C. The mixture was stirred for 15 min. A 1.6 N n-butyllithium/n-hexane solution (2.8 ml) was added dropwise to the reaction solution at the same temperature. The mixture was stirred for one hr. A solution (4 ml) of 0.846 g of tri-n-butylstannyl chloride in THF was added dropwise to the reaction solution. The mixture was stirred at −40° C. for 30 min. The reaction solution was added under ice cooling to a mixed solution composed of ether (50 ml) and 0.2 N phosphate buffer (pH 7) (50 ml) with thorough stirring. The organic layer was separated, washed with 0.2 N phosphate buffer (pH 7) (30 ml), and dried over anhydrous magnesium sulfate. The solvent was removed by distillation. The residue was subjected to separation and purification by flash column chromatography on silica gel (ethyl acetate) to give 0.752 g of the title compound.

reactant | lithiumbis(trimethylsilyl)amide n-hexane | 1.0 N, 2.2 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+].CCCCCC
reactant | 7-acetyl-3-methylimidazo[5,1-b]thiazole | 0.360 g | C(C)(=O)C=1N=CN2C1SC=C2C | C8H8N2OS
reactant | n-butyllithium n-hexane | 1.6 N, 2.8 ml | C(CCC)[Li].CCCCCC
reactant | tri-n-butylstannyl chloride | 4 ml, 0.846 g | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | phosphate | 0.2 N, 50 ml, pH 7 | P(=O)([O-])([O-])[O-]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | ether | 50 ml | CCOCC | C4H10O
product | 7-Acetyl-3-methyl-2-(tri-n-butylstannyl)imidazo-[5,1-b]thiazole | 0.752 g | C(C)(=O)C=1N=CN2C1SC(=C2C)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C8H7N2OS.3C4H9.Sn/c1-5-3-12-8-7(6(2)11)9-4-10(5)8;3*1-3-4-2;/h4H,1-2H3;3*1,3-4H2,2H3;
